US04840936
(A) (2RS)-2-(4-isobutylphenyl)-propanal
An aliquot of the so obtained (2RS)-2-(4-isobutylphenyl)-propanoyl chloride (44.8 g; 0.199 moles) is dissolved in acetone (200 ml); this solution is added dropwise to a suspension of triphenyl phosphine (112 g; 0.427 moles) and bistriphenyl phosphine cupper boron hydride (128 g; 0.212 moles) in acetone (600 ml) kept under stirring at 20° C.

reactant | (2RS)-2-(4-isobutylphenyl)-propanoyl chloride | 0.199 moles, 44.8 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)C | C13H17ClO
reactant | triphenyl phosphine | 0.427 moles, 112 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | (2RS)-2-(4-isobutylphenyl)-propanal | C(C(C)C)C1=CC=C(C=C1)C(C=O)C | C13H18O
